US08669234B2
3-(2-Methoxycarbonylamino-3-methyl-butyryl)-1-(2,2,2-trifluoro-ethyl)-imidazolidine-4-carboxylic acid methyl ester (95 mg, 0.257 mmol) was dissolved in THF (1.8 mL) and MeOH (0.9 mL). An aqueous solution of LiOH (10.8 mg, 0.208 mmol) was added and stirring at room temperature was continued. After the hydrolysis was complete, the reaction was neutralized with aqueous HCl (1M). The organic solvents were removed in vacuo and the aqueous suspension was frozen and lyophilized. The crude material was used in the next step without further purification. The crude material was dissolved in DMF (1.5 mL) and HATU (97.6 mg, 0.257 mmol) and DIEA (66.3 mg, 0.514 mmol) were added. The reaction was stirred at room temperature for five minutes, after which the amino-(4′bromo) acetophenone hydrochloride salt (64.2 mg, 0.257 mmol) was added. Stirring at room temperature was continued. After 60 minutes, all volatiles were removed in vacuo and the crude material was purified via silica gel chromatography (eluent: EtOAc/hexanes) to yield the slightly impure product {1-[5-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-(2,2,2-trifluoro-ethyl)-imidazolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (148 mg): LCMS-ESI+: calc'd for C21H26BrF3N4O5: 551.3 (M+). Found: 551.2/553.2 (M+).

reactant | 3-(2-Methoxycarbonylamino-3-methyl-butyryl)-1-(2,2,2-trifluoro-ethyl)-imidazolidine-4-carboxylic acid methyl ester | 0.257 mmol, 95 mg | COC(=O)C1N(CN(C1)CC(F)(F)F)C(C(C(C)C)NC(=O)OC)=O | C14H22F3N3O5
reactant | LiOH | 0.208 mmol, 10.8 mg | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
reactant | HATU | 0.257 mmol, 97.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.514 mmol, 66.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | amino-(4′bromo) acetophenone hydrochloride salt | 0.257 mmol, 64.2 mg | Cl.NCC(=O)C1=CC=C(C=C1)Br
solvent | THF | 1.8 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.9 mL | CO | CH4O
product | {1-[5-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-(2,2,2-trifluoro-ethyl)-imidazolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 148 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C(NCC(=O)C1=CC=C(C=C1)Br)=O)CC(F)(F)F)=O | C21H26BrF3N4O5
